US06831175B2
3-Methyl-1,3-dihydro-indol-2-one
A solution of oxindole (665 mg, 5.0 mmol) in THF (10 ml) was treated dropwise with n-BuLi (4.4 ml, 11.0 mmol) at −78° C., stirred for 30 min. at −78° C. To the reaction methyliodine (2 ml) was added dropwise at −78° C. The resulting solution was warmed up to room temperature. The mixture was quenched with water. The reaction solution was partitioned between ethylacetate and water. The organic layer was washed (brine), dried (Na2SO4), filtered and concentrated under vacumm. Purification on silica gel with 30% ethyl acetate/hexane to provide the title compound (630 mg, 86%). MS (DCI/NH3) m/e 148 (M+1)+.

reactant | oxindole | 5.0 mmol, 665 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | n-BuLi | 11.0 mmol, 4.4 ml | [Li]CCCC
reactant | methyliodine | 2 ml | CI | CH3I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-Methyl-1,3-dihydro-indol-2-one | 630 mg, 86% | CC1C(NC2=CC=CC=C12)=O | C9H9NO
